US05821366
ortho-Tolylisocyanate (4.95 ml) was added to a solution of 2-fluorobenzylamine (4.56 ml) in toluene (50 ml) under an atmosphere of nitrogen at 5° C. to produce rapid formation of a white solid. Heptane was added, the solid broken up and filtered off to afford 1-(2-fluorobenzyl)-3-(2-methylphenyl)urea (9.5 g) as a white solid. The urea (8 g) and cyanoacetic acid (2.9 g) were ground together and heated in acetic anhydride (15 ml) to 80° C. After cooling the reaction mixture to room temperature, diethyl ether was added and washed with water. The separated ether phase was dried over magnesium sulphate, filtered and evaporated in vacuo to give a crude solid residue (8.9 g). This residue was redissolved in dichloromethane (120 ml), triethylamine (5.7 ml) added and the mixture stirred at room temperature for 3 days. Filtration of the precipitate yielded the desired uracil as a white solid (2.6 g).

reactant | ortho-Tolylisocyanate | 4.95 ml | C=1(C(=CC=CC1)N=C=O)C | C8H7NO
reactant | 2-fluorobenzylamine | 4.56 ml | FC1=C(CN)C=CC=C1 | C7H8FN
reactant | Heptane | CCCCCCC | C7H16
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-fluorobenzyl)-3-(2-methylphenyl)urea | 9.5 g | FC1=C(CNC(=O)NC2=C(C=CC=C2)C)C=CC=C1 | C15H15FN2O
